US08859774B2
Chlorosulphonic acid (2 ml, 30.1 mmol) was added cautiously dropwise by pipette over 5 minutes to stirred neat 1-methylpyridin-2(1H)-one (8.09 ml, 82 mmol) and the resulting viscous solution was stirred at 50° C. for 40 hours. The cooled solidified reaction mixture was then added cautiously to water (100 ml), giving a clear brown solution. This solution was concentrated in vacuo to 40 ml, then made basic with concentrated ammonia solution, and washed with dichloromethane (6×100 ml). The aqueous phase was then evaporated to give a brown slurry which was triturated in methanol and filtered. The filtrate was evaporated to give 1-methyl-6-oxo-1,6-dihydropyridine-3-sulfonic acid, ammonium salt (3 g) as a brown solid. LCMS (Method F, ES-API): RT 0.46 min, m−H=188.0.

reactant | Chlorosulphonic acid | 30.1 mmol, 2 ml | ClS(=O)(=O)O | ClHO3S
reactant | 1-methylpyridin-2(1H)-one | 82 mmol, 8.09 ml | CN1C(C=CC=C1)=O | C6H7NO
solvent | water | 100 ml | O | H2O
product | 1-methyl-6-oxo-1,6-dihydropyridine-3-sulfonic acid, ammonium salt | 3 g | [NH4+].CN1C=C(C=CC1=O)S(=O)(=O)[O-] | InChI=1S/C6H7NO4S.H3N/c1-7-4-5(12(9,10)11)2-3-6(7)8;/h2-4H,1H3,(H,9,10,11);1H3
